US04880806
To 2-chloro-4,5-difluoro-3-methylbenzoic acid (3.1 g) is added thionyl chloride (6 ml), and the mixture is reflexed for one hour. The mixture is concentrated under reduced pressure to give 2-chloro-4,5-difluoro-3-methylbenzoyl chloride (3.3 g).

reactant | 2-chloro-4,5-difluoro-3-methylbenzoic acid | 3.1 g | ClC1=C(C(=O)O)C=C(C(=C1C)F)F | C8H5ClF2O2
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloro-4,5-difluoro-3-methylbenzoyl chloride | 3.3 g | ClC1=C(C(=O)Cl)C=C(C(=C1C)F)F | C8H4Cl2F2O
